US06455587B1
Preparation of Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(2,5-dimethoxycinnamoyl)-L-lysine (Compound No. 190)
Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine was reacted with 2,5-dimethoxycinnamic acid under the conditions described in example 86 to yield 69% of the desired product.

reactant | Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine | C(C(C)C)N([C@@H](CCCCN)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H25N3O6S
reactant | 2,5-dimethoxycinnamic acid | COC1=C(C=CC(=O)O)C=C(C=C1)OC | C11H12O4
product | Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(2,5-dimethoxycinnamoyl)-L-lysine | 69% | C(C(C)C)N([C@@H](CCCCNC(C=CC1=C(C=CC(=C1)OC)OC)=O)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C27H35N3O9S
